US04324741
0.12 ml of mercaptoacetic acid and 350 ml of 2,6-di-tert-butyl-4-methylpyridine were added to 4 ml of methylene chloride and the mixture was stirred at room temperature. Then, 800 mg of pentafluoroethylphenyliodonium trifluoromethanesulfonate was added thereto and the mixture was allowed to react for 30 minutes at room temperature. The reaction mixture was subjected to column chromatography of silica gel and, after eluting iodobenzene with hexane, the product was eluted with diethyl ether. The diethyl ether was distilled off to obtain 319 mg (90% yield) of pentafluoroethylthioacetic acid as an oily substance.

reactant | mercaptoacetic acid | 0.12 ml | SCC(=O)O | C2H4O2S
reactant | 2,6-di-tert-butyl-4-methylpyridine | 350 ml | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | pentafluoroethylphenyliodonium trifluoromethanesulfonate | 800 mg | FC(S(=O)(=O)[O-])(F)F.FC(C(F)(F)F)(F)[I+]C1=CC=CC=C1
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | pentafluoroethylthioacetic acid | 319 mg, 90% yield | FC(C(F)(F)F)(F)CC(=S)O | C4H3F5OS
